US08383647B2
4-[(2R)-tetrahydrofuran-2-ylmethoxy]benzoic acid
A solution of (2R)-tetrahydrofuran-2-carboxylic acid (23.2 g) in toluene (240 mL) and methanol (80 mL) was cooled to 0° C., and (trimethylsilyl)diazomethane (100 mL, 2.0M hexane solution) was slowly added dropwise. After the completion of the dropwise addition, the mixture was stirred at 0° C. for 30 min. The reaction solution was concentrated, and tetrahydrofuran (500 mL) was added to the residue. The reaction solution was cooled to 0° C., aluminum lithium hydride (100 mL, 2.0M tetrahydrofuran solution) was slowly added dropwise. After the completion of the dropwise addition, the mixture was stirred at 0° C. for 2 hr. To the reaction solution was slowly added sodium sulfate decahydrate at 0° C. carefully until foaming ceased, and the mixture was stirred at room temperature for 2 hr. The reaction solution was filtered through celite to remove insoluble materials, and the solvent was evaporated under reduced pressure to give a colorless liquid (18.0 g). To a solution of the obtained colorless liquid (18.0 g), methyl 4-hydroxybenzoate (27.4 g), and triphenylphosphine (53.2 g) in tetrahydrofuran (400 ml) was slowly added dropwise a solution (99 mL) of diethyl azodicarboxylate in toluene (40% toluene solution) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, triphenylphosphine oxide was precipitated from ethyl acetate-hexane and removed by filtration with a glass filter, and the mother liquor was concentrated. The residue was purified by NH-silica gel column chromatography [developing solvent; hexane:ethyl acetate=100:0 (volume ratio)→hexane:ethyl acetate=90:10 (volume ratio)] to give a colorless oil. The obtained colorless oil was dissolved in tetrahydrofuran (200 mL) and methanol (200 ml), 8N aqueous sodium hydroxide solution (100 mL) was added, and the mixture was stirred at 80° C. for 2 hr with heating. The reaction solution was concentrated, cooled to 0° C., neutralized with 6N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (38.6 g, yield 87%) as colorless crystals.

reactant | methyl 4-hydroxybenzoate | 27.4 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 53.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 99 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium hydroxide | 8N, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
product | 4-[(2R)-tetrahydrofuran-2-ylmethoxy]benzoic acid | 38.6 g, yield 87% | O1[C@H](CCC1)COC1=CC=C(C(=O)O)C=C1 | C12H14O4
